Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
aspirin / codeine / doxycycline / enalaprilat / erythromycin 
base / latex / loperamide / Macrolide Antibiotics / Penicillins 
/ antimalarial / Tetracyclines
 
Attending: ___
 
Chief Complaint:
Facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with history of 
hypertension
and hypercholesterolemia who presents with a facial droop. She
says that she woke up this morning around 9am and looked in the
mirror and noted that the right corner of her mouth was droopy,
and she also noted some asymmetry in her mid-face, likely
nasolabial fold flattening. Around 930am, she received a
telephone call, and she says that her language was not normal 
but
has difficulty describing it. She says that she "felt stupid" 
and
had difficulty answering the other persons questions. She says
that she mainly felt like words were not coming out, as if she
were "short on words". She does not know how long this lasted 
but
feels like her language is back to normal now. She had an
appointment with a neurologist for sleep apnea, but the
neurologist noted the facial droop and recommended that she come
to the ED. In the note, the neurologist notes a right lower
facial droop but also some mild weakness with eye closure. She
feels like the facial droop has been improving since this
morning.

She denies any blurry vision or double vision. She says that
sometimes she feels off balance, especially when she stands. She
has some lingual slurring of her words but this is because of a
new dental device, and she feels that there is no change in her
voice. She denies vertigo, dysphagia, numbness, weakness and
tingling. Her general review of systems is negative.

 
Past Medical History:
Hypertension
Hypercholesterolemia
Pulmonary embolism after knee replacement, had been on Coumadin
but has been off for some time
 
Social History:
___
Family History:
Her grandfather's brother had schizophrenia and a
stroke. Her father had an MI at ___ years old when he was caught
in a blizzard.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.2 67 166/83 16 98%
General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple
Pulmonary: No increased WOB
Cardiac: RRR
Abdomen: soft, non-distended
Skin: no rashes or lesions noted.  
  
Neurologic:  
-Mental Status: Alert, oriented to current place and time. Able
to relate history without difficulty. Attentive, able to name
days of the week backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. She was able to name both high and 
low
frequency objects. Able to read without difficulty. Speech was
somewhat dysarthric. Able to follow both midline and 
appendicular
commands. There was no evidence of neglect.  
  
-Cranial Nerves: II: PERRL 3 to 2mm and brisk. VFF to
confrontation. II, IV, VI: EOMI without nystagmus. Normal
saccades. V: Facial sensation intact to light touch. VII: Slight
right facial droop with nasolabial fold flattening on the right,
forehead wrinkles symmetrically and eye raise is symmetric, eye
closure on the right is slightly weaker than on the left but not
able to actually overcome eye closure VIII: Hearing intact to
finger-rub bilaterally. IX, X: Palate elevates symmetrically. 
XI:
___ strength in trapezii and SCM bilaterally. XII: Tongue
protrudes in midline with normal strength  
  
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.  
  Delt Bic Tri WrE  IO IP Quad Ham TA ___
L  5    ___   ___    5  5     5
R  5    ___   ___    5  5     5
  
-Sensory: No deficits to light touch, cold sensation.
  
-DTRs:  
  Bi Tri ___ Pat Ach  
L 3   2    3    2   2  
R 3   2    3    2   2  
+Pectorals bilaterally. Plantar response was flexor bilaterally. 


  
-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.  
  
-Gait: Narrow based gait. Able to walk on tiptoe. Able to stand
in tandem.
==============================================

DISCHARGE PHYSICAL EXAM:

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

 
Pertinent Results:
ADMISSION LABS:
___ 06:04PM BLOOD WBC-6.7 RBC-4.67 Hgb-14.0 Hct-42.7 MCV-91 
MCH-30.0 MCHC-32.8 RDW-12.9 RDWSD-42.5 Plt ___
___ 06:04PM BLOOD Neuts-57.8 ___ Monos-9.7 Eos-5.2 
Baso-0.7 Im ___ AbsNeut-3.87 AbsLymp-1.76 AbsMono-0.65 
AbsEos-0.35 AbsBaso-0.05
___ 06:04PM BLOOD ___ PTT-30.1 ___
___ 06:04PM BLOOD Glucose-100 UreaN-17 Creat-0.9 Na-136 
K-5.5* Cl-101 HCO3-24 AnGap-17
___ 09:30AM BLOOD ALT-28 AST-26
___ 06:04PM BLOOD Calcium-9.8 Phos-3.8 Mg-2.3
___ 09:30AM BLOOD %HbA1c-6.2* eAG-131*
___ 09:30AM BLOOD Triglyc-235* HDL-49 CHOL/HD-4.3 
LDLcalc-113
___ 09:30AM BLOOD TSH-2.7
___ 06:04PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING: 

Non-Contrast CT of Head ___:
No acute intracranial abnormality. 

CXR ___:
No acute intrathoracic process.

MRI/A BRAIN ___:
Findings indicative of cerebellar atrophy. No acute infarcts.  
Mild changes of small vessel disease.  No significant 
abnormalities are seen on MRA of the head and neck. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of hypertension 
and hypercholesterolemia who presented with a right facial 
droop, likely etiology is TIA. 

Her admission exam was notable for right lower facial weakness 
with minimal right upper face weakness. This resolved quickly 
after admission. She underwent CT head which was negative. MRI 
was negative for acute stroke. MRA did not show any significant 
stenosis or atherosclerosis. Stroke risk factors were checked, 
including: A1C 6.2, LDL 113 and TSH of 2.7. She was started on 
Plavix due to reported allergy to Aspirin. Pravastatin was also 
increased to 40mg from 20mg. Given her risk factors and apparent 
upper motor neuron facial droop, the most likely etiology of her 
presentation is transient ischemic attack. Patient was unable to 
get a TTE due to inpatient volume, so she will have this as an 
outpatient. She will follow-up with ___ neurology as an 
outpatient. Exam was normal on discharge. 

Transitional issues: 
-neurology f/u
-f/u TTE with bubble
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Venlafaxine 37.5 mg PO DAILY 
3. Pravastatin 20 mg PO QPM 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. azelastine 137 mcg (0.1 %) nasal BID 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5
3. Venlafaxine 37.5 mg PO DAILY 
4. azelastine 137 mcg (0.1 %) nasal BID 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Pravastatin 40 mg PO QPM 
RX *pravastatin 40 mg 1 tablet(s) by mouth qPM Disp #*30 Tablet 
Refills:*5

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ after presenting with a right facial 
droop concerning for stroke. You symptoms went away shortly 
after presentation, but we are concerned for a "mini-stroke" or 
transient ischemic attack (TIA). This is a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
transiently blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 
TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
-high cholesterol
-high blood pressure  
 
We are changing your medications as follows:  
START PLAVIX (CLOPIDOGREL)
INCREASE PRAVASTATIN TO 40MG every night
 
Please take your other medications as prescribed.  
 
Please follow-up with Neurology and your primary care physician. 
 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___